US07084306B2
To 177 g of methanol, 43.7 g (0.216 mol) of 2,2,6,6-tetramethyl-3,5-heptanedione of 91% purity was dropwise added with stirring. To the resulting solution, a solution, which had been obtained by dissolving 12.7 g (0.054 mol) of ZrCl4 of 99% purity in 218 g of methanol and cooled to room temperature, was added over a period of about 5 minutes. The reaction was conducted for 1 hour with stirring, and 590 g of water was added over a period of 50 minutes. Then, stirring was performed for 1 hour. The resulting solution was adjusted to pH 6.6 with a 20% NaOH solution. The resulting crystals were collected by centrifugation and then dried. Thus, 43.9 g (yield: 98.2%) of tetrakis(2,2,6,6-tetramethyl-3,5-heptanedionato)zirconium was obtained.

reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.216 mol, 43.7 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | ZrCl4 | 0.054 mol, 12.7 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | water | 590 g | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 218 g | CO | CH4O
solvent | methanol | 177 g | CO | CH4O
product | tetrakis(2,2,6,6-tetramethyl-3,5-heptanedionato)zirconium | 43.9 g, yield: 98.2% | CC(/C(=C/C(=O)C(C)(C)C)/O)(C)C.CC(/C(=C/C(=O)C(C)(C)C)/O)(C)C.CC(/C(=C/C(=O)C(C)(C)C)/O)(C)C.CC(/C(=C/C(=O)C(C)(C)C)/O)(C)C.[Zr] | InChI=1S/4C11H20O2.Zr/c4*1-10(2,3)8(12)7-9(13)11(4,5)6;/h4*7,12H,1-6H3;/b4*8-7-;
